US05841000
100 ml of water and 0.70 g of Triton X-100 were put into a 300-ml 4-mouthed flask, and mixed as 80 ml of ortho-dichlorobenzene and 60.0 g of indene (95 wt %; 0.491 mol) were added. At 20° C., 41.54 g of bromine (0.259 mol) was added with strong stirring and air cooling over approximately 5 minutes. After dropwise addition the temperature of the reaction mixture became 52° C. After mixing at 60° C. for 13 hours, 23.8 g of hydrogen peroxide (35 wt %; 0.245 mol) was added dropwise at the same temperature, requiring 3 hours, followed by mixing for a further 3 hours at 60° C. and then separation into an aqueous layer and a slurry layer. The aqueous layer was extracted with 120 ml of ortho-dichlorobenzene, and the extract layer was bulked with the earlier slurry layer. The warm slurry layer was cooled gradually to 20° C. under stirring, the crystals which came down were isolated by centrifugation and washed with 30 ml of ortho-dichlorobenzene. The wet crystals were dried at 65°-70° C. under decreased pressure to obtain 72.18 g of white crystals of trans-2-bromoindan-1-ol (yield 69.0%).

reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | indene | 0.491 mol, 60.0 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | bromine | 0.259 mol, 41.54 g | BrBr | Br2
reactant | hydrogen peroxide | 0.245 mol, 23.8 g | OO | H2O2
solvent | ortho-dichlorobenzene | 80 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | water | 100 ml | O | H2O
product | trans-2-bromoindan-1-ol | yield 69.0% | Br[C@H]1[C@@H](C2=CC=CC=C2C1)O | C9H9BrO
